US07902203B2
phenylmethanaminium 2-(benzylamino)-6-methylnicotinate
The title compound was prepared as a benzylamine salt according to the procedure of Example 3A substituting 2-chloro-6-methyl-nicotinic acid for 2-chloro-nicotinic acid ethyl ester and benzyl amine for 2-ethylbutylamine (0.480 g, 46%). MS (ESI+) m/z 243.03 (M+H)+; 1H NMR (300 MHz, CDCl3) δ 2.35 (s, 3H), 3.67 (s, 2H), 4.65 (s, 2H), 5.73 (br s, 3H), 6.16 (d, J=7.72 Hz, 1H), 7.17 (m, 10H), 7.76 (d, J=7.35 Hz, 1H), 8.66 (br s, 1H).

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-chloro-nicotinic acid ethyl ester | C(C)OC(C1=C(N=CC=C1)Cl)=O | C8H8ClNO2
reactant | 2-ethylbutylamine | 0.480 g | C(C)C(CN)CC | C6H15N
product | phenylmethanaminium 2-(benzylamino)-6-methylnicotinate | C(C1=CC=CC=C1)NC1=C(C(=O)[O-])C=CC(=N1)C.C1(=CC=CC=C1)C[NH3+] | InChI=1S/C14H14N2O2.C7H9N/c1-10-7-8-12(14(17)18)13(16-10)15-9-11-5-3-2-4-6-11;8-6-7-4-2-1-3-5-7/h2-8H,9H2,1H3,(H,15,16)(H,17,18);1-5H,6,8H2
